US05597836
N-(2-Phenylethyl)-4-pyridinamine (Compound 11A)
A mixture composed of 2.0 g (0.0176 m) of 4-chloropyridine and 4.3 g (0.0352 m) of phenethylamine was heated under nitrogen to 160°-165° C for one hour. The mixture was then cooled and 200 mL of a 50/50 mixture of ammonium hydroxide in water was added. The product was extracted into CH2Cl2, which was then concentrated to dryness. The resulting material was purified by HPLC on silica gel, eluting with ethyl acetate to provide 0.560 g of the title product.

reactant | 4-chloropyridine | 2.0 g | ClC1=CC=NC=C1 | C5H4ClN
reactant | phenethylamine | 4.3 g | C(CC1=CC=CC=C1)N | C8H11N
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | N-(2-Phenylethyl)-4-pyridinamine | 0.560 g | C1(=CC=CC=C1)CCNC1=CC=NC=C1 | C13H14N2
